### PR TITLE
[Merged by Bors] - refactor: create `CStarAlgebra` classes and refactor to use them

### PR DESCRIPTION
**Pull request by j-loreaux**
---

- [x] depends on: #17838 

if you prefer, I can split off the new classes into a separate PR, but it's probably better to just merge this for performance reasons instead, despite the fact that review is a little harder.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by j-loreaux** [comment]
!bench

File: Mathlib/Algebra/Ring/Subsemiring/Basic.lean [hunk 1]
```diff
@@ -68,6 +68,11 @@ instance (priority := 100) SubsemiringClass.addSubmonoidWithOneClass (S : Type*)
     AddSubmonoidWithOneClass S R :=
   { h with }
 
+instance (priority := 100) SubsemiringClass.nonUnitalSubsemiringClss (S : Type*)
+    (R : Type u) [NonAssocSemiring R] [SetLike S R] [SubsemiringClass S R] :
```
Comment (dupuisf) [inline Mathlib/Algebra/Ring/Subsemiring/Basic.lean:72]:
```suggestion
instance (priority := 100) SubsemiringClass.nonUnitalSubsemiringClass (S : Type*)
    (R : Type u) [NonAssocSemiring R] [SetLike S R] [SubsemiringClass S R] :
```

**Comment by j-loreaux** [comment]
!bench

**Comment by j-loreaux** [comment]
As Eric mentioned [here](https://github.com/leanprover-community/mathlib4/pull/16645#discussion_r1755670403):

> `ULift` and `PUnit` would be good instances too, assuming the machinery is present elsewhere.

We don't have that machinery, so I'm not going to do it in this PR (e.g., we have no `Star PUnit` instance).

File: Mathlib/Analysis/VonNeumannAlgebra/Basic.lean [hunk 2]
```diff
@@ -39,8 +39,7 @@ One the other hand, not picking one means that the weak-* topology
 (which depends on a choice of predual) must be defined using the choice,
 and we may be unhappy with the resulting opaqueness of the definition.
 -/
-class WStarAlgebra (M : Type u) [NormedRing M] [StarRing M] [CStarRing M] [Module ℂ M]
-    [NormedAlgebra ℂ M] [StarModule ℂ M] : Prop where
+class WStarAlgebra (M : Type u) [CStarAlgebra M] : Prop where
```
Comment (j-loreaux) [inline Mathlib/Analysis/VonNeumannAlgebra/Basic.lean:42]: This was actually a bad definition as originally written because `Module ℂ M` was a duplicated instance leading to multiple `SMul` structures on this type.

File: Mathlib/Analysis/CStarAlgebra/Unitization.lean [hunk 3]
```diff
@@ -30,10 +30,13 @@ variable [NormedSpace 𝕜 E] [IsScalarTower 𝕜 E E] [SMulCommClass 𝕜 E E]
...
-  suffices ‖mul 𝕜 E (star a)‖ ≤ ‖(mul 𝕜 E).flip a‖ by simpa using this
+  suffices ‖mul 𝕜 E (star a)‖ ≤ ‖(mul 𝕜 E).flip a‖ by
+    simpa only [ge_iff_le, opNorm_mul_apply, norm_star] using this
   refine opNorm_le_bound _ (norm_nonneg _) fun b => ?_
-  calc ‖mul 𝕜 E (star a) b‖ = ‖(mul 𝕜 E).flip a (star b)‖ := by simpa using norm_star (star b * a)
-    _ ≤ ‖(mul 𝕜 E).flip a‖ * ‖b‖ := by simpa using le_opNorm ((mul 𝕜 E).flip a) (star b)
+  calc ‖mul 𝕜 E (star a) b‖ = ‖(mul 𝕜 E).flip a (star b)‖ := by
+        simpa only [mul_apply', flip_apply, star_mul, star_star] using norm_star (star b * a)
+    _ ≤ ‖(mul 𝕜 E).flip a‖ * ‖b‖ := by
+        simpa only [flip_apply, mul_apply', norm_star] using le_opNorm ((mul 𝕜 E).flip a) (star b)
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Unitization.lean:39]: This declaration got a *lot* slower (I believe, in part, because there is now a `Analysis.Complex.Basic` transitive import), but I had trouble tracing it down. Squeezing the `simp`s fixed it though.

File: Mathlib/Analysis/CStarAlgebra/Spectrum.lean [hunk 4]
```diff
@@ -240,7 +235,6 @@ lemma nnnorm_apply_le (φ : F) (a : A) : ‖φ a‖₊ ≤ ‖a‖₊ := by
       exact this <| .star_mul_self x
     intro s hs
     suffices this : spectralRadius ℂ (ψ s) ≤ spectralRadius ℂ s by
-      -- changing the order of `rw`s below runs into https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/weird.20type.20class.20synthesis.20error/near/421224482
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Spectrum.lean:243]: I suspect, but I'm not positive, that this synth pending issue will no longer plague stuff involving `Unitization`. I checked that this comment is no longer necessary.

**Comment by j-loreaux** [comment]
!bench

**Comment by j-loreaux** [comment]
!bench
